US08912180B2
To (3S)-3-amino-1-[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexyl]pyrrolidin-2-one (75 mg), N-ethyl-N-isopropylpropan-2-amine (73 μL), and 1,2-dichloroethane (750 μL) was added methanesulfonyl chloride (17 μL), followed by stirring at room temperature for 1 hour. After the completion of the reaction, a saturated aqueous sodium bicarbonate solution was added thereto, followed by extraction with chloroform. The organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol) to obtain N-{(3S)-1-[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexyl]-2-oxopyrrolidin-3-yl}methanesulfonamide (82 mg) as a pale yellow powder.

reactant | (3S)-3-amino-1-[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexyl]pyrrolidin-2-one | 75 mg | N[C@@H]1C(N(CC1)[C@@H]1CC[C@H](CC1)OC1=NC(=NC(=C1)N1C(=NC2=C1C=CC=C2)C(F)F)N2CCOCC2)=O | C26H31F2N7O3
reactant | N-ethyl-N-isopropylpropan-2-amine | 73 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 17 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 750 μL | ClCCCl | C2H4Cl2
product | N-{(3S)-1-[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexyl]-2-oxopyrrolidin-3-yl}methanesulfonamide | 82 mg | FC(C1=NC2=C(N1C1=CC(=NC(=N1)N1CCOCC1)O[C@@H]1CC[C@H](CC1)N1C([C@H](CC1)NS(=O)(=O)C)=O)C=CC=C2)F | C27H33F2N7O5S
